US08420661B2
Step 1: 3-Chloro-6-(3-fluoro-phenylethynyl)-pyridazine
To a well stirred solution of 2-chloro-5-iodopyrazine (600 mg, 2.5 mmol), 3-fluorophenyl-acetylene (315 mg, 303 μl, 2.62 mmol, 1.05 equiv.) in 7 ml of THF were added under argon atmosphere bis(triphenylphosphine)-palladium(II)dichloride (175 mg, 0.250 mmol, 0.02 equiv.), copper(I) iodide (23.8 mg, 0.125 mmol, 0.01 equiv.) and triethylamine (556 mg, 761 ul, 5.49 mmol, 2.2 equiv.). The mixture was stirred for 2 hours at room temperature. The crude mixture was filtered, adsorbed on silicagel and purified by flash chromatography over a 50 g silicagel column using a heptane to 25% ethyl acetate in heptane gradient. The title compound (450 mg, 78% yield) was obtained as a crystalline light-yellow solid, MS: m/e=233.1, 235.0 (M+H+).

reactant | 2-chloro-5-iodopyrazine | 2.5 mmol, 600 mg | ClC1=NC=C(N=C1)I | C4H2ClIN2
reactant | 3-fluorophenyl-acetylene | 2.62 mmol, 303 μl, 315 mg, 1.05 equiv. | FC=1C=C(C=CC1)C#C | C8H5F
reactant | triethylamine | 5.49 mmol, 761 ul, 556 mg, 2.2 equiv. | C(C)N(CC)CC | C6H15N
solvent | THF | 7 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)-palladium(II)dichloride | 0.250 mmol, 175 mg, 0.02 equiv. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I) iodide | 0.125 mmol, 23.8 mg, 0.01 equiv. | [Cu]I
product | 3-Chloro-6-(3-fluoro-phenylethynyl)-pyridazine | 450 mg, 78% yield | ClC=1N=NC(=CC1)C#CC1=CC(=CC=C1)F | C12H6ClFN2
